US07846929B2
To a solution of (2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methylamine (120 mg) in dichloromethane (2 ml) was added acetyl chloride (31.4 μL) and triethylamine (61.6 μL). The reaction mixture was stirred at room temperature for 3.5 hours, then diluted with dichloromethane, washed with brine, dried (MgSO4) and the solvents removed in vacuo to give a crude residue. This was purified by flash chromatography to yield N-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-N-methyl-acetamide (110 mg).

reactant | (2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-methylamine | 120 mg | ClC=1N=C(C2=C(N1)C=C(S2)CNC)N2CCOCC2 | C12H15ClN4OS
reactant | acetyl chloride | 31.4 μL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 61.6 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-N-methyl-acetamide | 110 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN(C(C)=O)C)N2CCOCC2 | C14H17ClN4O2S
